US07476688B2
(Step 5) (4-Propyltetrahydro-1H-2-pyrrolylidene)ammonium chloride
Ammonium chloride (110 mg, 2.06 mmol) was added to a solution of 5-methoxy-3-propyl-3,4-dihydro-2H-pyrrole (306 mg, 2.17 mmol) in ethanol (12 ml) and the mixture was heated to reflux for 4 hours. The reaction mixture was filtered and the filtrate was distilled off under reduced pressure to yield a crude product of the title compound (257 mg) as a white solid. 1H-NMR (DMSO-d6) δ(ppm) 0.86 (3H, t, J=7.2 Hz), 1.12-1.52 (4H, m), 2.34-2.60 (1H and DMSO, m), 2.78-2.93 (1H, m), 3.05-3.22 (2H, m), 3.54-3.70 (1H, m)

reactant | Ammonium chloride | 2.06 mmol, 110 mg | [Cl-].[NH4+]
reactant | 5-methoxy-3-propyl-3,4-dihydro-2H-pyrrole | 2.17 mmol, 306 mg | COC=1CC(CN1)CCC | C8H15NO
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | (4-Propyltetrahydro-1H-2-pyrrolylidene)ammonium chloride | 257 mg | [Cl-].C(CC)C1CC(NC1)=[NH2+] | InChI=1S/C7H14N2.ClH/c1-2-3-6-4-7(8)9-5-6;/h6H,2-5H2,1H3,(H2,8,9);1H
